US07202350B2
N-Bromosuccinimide (7.35 g) and benzoyl peroxide (196 mg) were added to a solution of 4-bromo-2-methylbiphenyl (5.0 g) in carbon tetrachloride (150 ml), and the mixture was stirred over night under reflux condition. After cooling to room temperature, the reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with saturated saline solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated therefrom under reduced pressure to give the residue. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain 4-bromo-2-(dibromomethyl)biphenyl (7.9 g). Sodium acetate (9.6 g) was added to a solution of 4-bromo-2-(dibromomethyl)biphenyl in acetic acid (240 ml) and stirred for two days under reflux condition. After cooling to room temperature, 4M hydrochloric acid (50 ml) was added to the reaction mixture, and the resulting mixture was stirred for two hours under reflux condition. After cooling to room temperature, the solvent was evaporated therefrom under reduced pressure to give the residue, ethyl acetate was added to the resulting residue, and the resultant was washed with 1M hydrochloric acid and saturated saline solution in order and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated from the filtrate under reduced pressure to give the residue, and the resulting residue was dried to obtain 4-bromo biphenyl-3-carboaldehyde (5.05 g).

reactant | Sodium acetate | 9.6 g | C(C)(=O)[O-].[Na+]
reactant | 4-bromo-2-(dibromomethyl)biphenyl | BrC1=CC(=C(C=C1)C1=CC=CC=C1)C(Br)Br | C13H9Br3
reactant | hydrochloric acid | 4M, 50 ml | Cl | ClH
solvent | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
product | 4-bromo biphenyl-3-carboaldehyde | 5.05 g | BrC1=C(C=C(C=C1)C1=CC=CC=C1)C=O | C13H9BrO
